US08735586B2
1-(2-Chloro-phenyl)-2-methyl-1H-benzoimidazole
The title compound was prepared with the analogous procedure described in example 1 using 1-Iodo-2-nitrobenzene (124 mg, 0.5 mmol) and N-(2-chlorophenyl)-acetamide (102 mg, 0.6 mmol) as starting materials to yield the title compound as a yellow solid (74 mg, 61%). 1H NMR (DMSO) δ 2.63 (s, 3 H), 7.34 (d, J=7.9 Hz, 1 H), 7.41 (t, J=7.9 Hz, 1 H), 7.48 (t, J=7.9 Hz, 1 H), 7.64 (d, J=8.6 Hz, 2 H), 7.82 (d, J=7.9 Hz, 1 H), 7.92 (d, J=8.6 Hz, 2 H).

reactant | 1-Iodo-2-nitrobenzene | 0.5 mmol, 124 mg | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | N-(2-chlorophenyl)-acetamide | 0.6 mmol, 102 mg | ClC1=C(C=CC=C1)NC(C)=O | C8H8ClNO
product | 1-(2-Chloro-phenyl)-2-methyl-1H-benzoimidazole | 74 mg, 61% | ClC1=C(C=CC=C1)N1C(=NC2=C1C=CC=C2)C | C14H11ClN2
